US05783572
A mixture of 5-(1-chloroethyl)-6,7dichloro-2,3-dimethoxyquinoxaline (95 mg, 0.295 mmol), imidazole (22 mg, 0.325 mmol), anhydrous potassium carbonate (45 mg, 0.325 mmol) in dry dimethylformamide (10 mL) was heated under nitrogen at 100° C. for 6 hours, cooled, and partitioned between brine and three portions of ethyl acetate. The combined organic solutions were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography (gradient elution with dichloromethane:mehanol) to give 6,7dichloro-2,3-dimethoxy-5-(1-imidazol-1-ylethyl)quinoxaline (60 mg, 58%); as a yellow solid.

reactant | 5-(1-chloroethyl)-6,7dichloro-2,3-dimethoxyquinoxaline | 0.295 mmol, 95 mg | ClC(C)C1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C12H11Cl3N2O2
reactant | imidazole | 0.325 mmol, 22 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.325 mmol, 45 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6,7dichloro-2,3-dimethoxy-5-(1-imidazol-1-ylethyl)quinoxaline | 60 mg, 58% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(C)N1C=NC=C1 | C15H14Cl2N4O2
